US06825191B2
Step 2: Synthesis of 4-(4-chlorobenzoyl)-1-[4-(2,5-dihydro-1H-pyrrol-1-ylcarbonyl)benzyl]-6-(trifluoromethyl)-1,3,4,5-tetrahydrobenzo[e][1,4]-diazepin-2-on
3.2 g (10.5 mmol) of ethyl [2-nitro-6-(trifluoromethyl)benzyl]-aminoacetate was dissolved in 50 ml of dichloromethane. 1.6 ml (12.6 mmol) of 4-chlorobenzoyl chloride and 1.9 ml (13.7 mmol) of triethylamine were added to the obtained solution under cooling with ice, and they were stirred under cooling with ice for 2 hours. After the treatment with dichloromethane as the extracting solvent by an ordinary method, the crude product was obtained. The crude product was dissolved in 20 ml of ethyl acetate. 320 mg of 10% palladium/carbon was added to the obtained solution and they were stirred in the presence of hydrogen at room temperature for 4 hours. The reaction solution was filtered through Celite. The solvent was evaporated and 210 mg (0.58 mmol) of the obtained crude product was dissolved in 5 ml of dichloromethane. 122 mg (0.68 mmol) of 4-(2,5-dihydro-1H-pyrrol-1-ylcarbonyl)benzaldehyde and 0.06 ml (1.2 mmol) of acetic acid were added to the obtained solution, and they were stirred at room temperature for 30 minutes. 310 mg (1.45 mmol) of sodium triacetoxyborohydride was added to the reaction mixture, and they were stirred at room temperature overnight. After the treatment with dichloromethane as the extracting solvent by an ordinary method, the obtained crude product was dissolved in a mixture of 5 ml of 1 N sodium hydroxide and 5 ml of ethanol, and the obtained solution was stirred at room temperature for 5 hours. After the treatment with ethyl acetate as the extracting solvent by an ordinary method, the obtained crude product was dissolved in 5 ml of dichloromethane. 118 mg (0.70 mmol) of 2-chloro-1,3-dimethyl-imidazonium chloride and 0.12 ml (0.87 mmol) of triethylamine were added to the obtained solution, and they were stirred overnight. The solvent was evaporated, and the obtained crude product was treated in the same manner as in step 3 in Example 1 to obtain the title compound.

reactant | ethyl [2-nitro-6-(trifluoromethyl)benzyl]-aminoacetate | 10.5 mmol, 3.2 g | [N+](=O)([O-])C1=C(CC(C(=O)OCC)N)C(=CC=C1)C(F)(F)F | C12H13F3N2O4
reactant | 4-chlorobenzoyl chloride | 12.6 mmol, 1.6 ml | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | triethylamine | 13.7 mmol, 1.9 ml | C(C)N(CC)CC | C6H15N
reactant | hydrogen | [H][H] | H2
reactant | 4-(2,5-dihydro-1H-pyrrol-1-ylcarbonyl)benzaldehyde | 0.68 mmol, 122 mg | N1(CC=CC1)C(=O)C1=CC=C(C=O)C=C1 | C12H11NO2
reactant | acetic acid | 1.2 mmol, 0.06 ml | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 1.45 mmol, 310 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | triethylamine | 0.87 mmol, 0.12 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | sodium hydroxide | 1 N, 5 ml | [OH-].[Na+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
catalyst | palladium/carbon | 320 mg | [Pd] | Pd
product | 4-(4-chlorobenzoyl)-1-[4-(2,5-dihydro-1H-pyrrol-1-ylcarbonyl)benzyl]-6-(trifluoromethyl)-1,3,4,5-tetrahydrobenzo[e][1,4]-diazepin-2-on | ClC1=CC=C(C(=O)N2CC(N(C3=C(C2)C(=CC=C3)C(F)(F)F)CC3=CC=C(C=C3)C(=O)N3CC=CC3)=O)C=C1 | C29H23ClF3N3O3
